US06974822B2
Step (1): 7-bromo-2-(3-fluorobenzyl)-2H-5-azaisoquinolin-3-one
The alkylation of 7-bromo-3-hydroxy-5-azaisoquinoline (1.00 g, 4.40 mmol) using 3-fluorobenzyl bromide (1.27 g, 6.69 mmol) and cesium carbonate (2.18 g, 6.69 mmol) in dimethylformamide is carried out as previously described in Example 1, Step (1). Purification on a silica gel column eluted with hexanes/ethyl acetate 3:1, followed by trituration with hexanes/ethyl acetate 4:1 will afford the desired product. Step (2): 2-(3-fluorobenzyl)-7-(3-phenyl-prop-1-ynyl)-2H-5-azaisoquinolin-3-one

reactant | 7-bromo-3-hydroxy-5-azaisoquinoline | 4.40 mmol, 1.00 g | BrC1=CN=C2C=C(N=CC2=C1)O | C8H5BrN2O
reactant | 3-fluorobenzyl bromide | 6.69 mmol, 1.27 g | FC=1C=C(CBr)C=CC1 | C7H6BrF
reactant | cesium carbonate | 6.69 mmol, 2.18 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7-bromo-2-(3-fluorobenzyl)-2H-5-azaisoquinolin-3-one | BrC=1C=NC2=CC(N(C=C2C1)CC1=CC(=CC=C1)F)=O | C15H10BrFN2O
